### PR TITLE
[Merged by Bors] - feat: `Fin.castPred_eq_zero`

### PR DESCRIPTION
**Pull request by smmercuri**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kbuzzard** [comment]
I would imagine that the change in imports is completely unacceptable (over 50 files now have over 100 more imports the vast majority of which are completely avoidable). Can you find a better home for your lemma rather than adding this disruptive import?

**Comment by smmercuri** [comment]
> I would imagine that the change in imports is completely unacceptable (over 50 files now have over 100 more imports all of which are completely avoidable). Can you find a better home for your lemma rather than adding this disruptive import?

Oh yes, that import change was ridiculous. Lemma moved!

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 1]
```diff
@@ -308,6 +309,11 @@ theorem range_cons {α} {n : ℕ} (x : α) (b : Fin n → α) :
     Set.range (Fin.cons x b : Fin n.succ → α) = insert x (Set.range b) := by
   rw [range_fin_succ, cons_zero, tail_cons]
 
+theorem pairwise_fin_two {n : ℕ} {r : Fin (n + 2) → Fin (n + 2) → Prop} (h : Pairwise r) :
```
Comment (urkud) [inline Mathlib/Data/Fin/Tuple/Basic.lean:312]: Please add a docstring explaining what this lemma says and why is it useful.

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -855,6 +855,11 @@ theorem castPred_zero' [NeZero n] (h := Fin.ext_iff.not.2 last_pos'.ne) :
 theorem castPred_zero (h := Fin.ext_iff.not.2 last_pos.ne)  :
     castPred (0 : Fin (n + 2)) h = 0 := rfl
 
+theorem castPred_ne_zero {j : Fin (n + 2)} (h₁ : j ≠ Fin.last (n + 1)) (h₂ : j ≠ 0) :
```
Comment (urkud) [inline Mathlib/Data/Fin/Basic.lean:858]: Please add a `simp` lemma saying that `Fin.castPred i _ = 0` iff `i = 0` instead.

File: Mathlib/Data/Fin/Tuple/Basic.lean (hunk 1 above)
Comment (smmercuri) [reply Mathlib/Data/Fin/Tuple/Basic.lean]: After reviewing the dependent branch, I think this one is no longer really needed! It's now removed

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (smmercuri) [reply Mathlib/Data/Fin/Basic.lean]: Fixed

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -855,6 +855,11 @@ theorem castPred_zero' [NeZero n] (h := Fin.ext_iff.not.2 last_pos'.ne) :
 theorem castPred_zero (h := Fin.ext_iff.not.2 last_pos.ne)  :
     castPred (0 : Fin (n + 2)) h = 0 := rfl
 
+@[simp]
+theorem castPred_eq_zero [NeZero n] {i : Fin (n + 1)} (h : i ≠ last n) :
+    Fin.castPred i h = 0 ↔ i = 0 :=
+  ⟨fun h => by rwa [← castPred_zero', castPred_inj] at h, fun h => h ▸ castPred_zero'⟩
```
Comment (urkud) [inline Mathlib/Data/Fin/Basic.lean:861]: Does
```suggestion
    Fin.castPred i h = 0 ↔ i = 0 := by
  rw [← castPred_zero', castPred_inj]
```
work? Also, please fix the PR title.

Thanks!
bors d+
